US08685980B2
By repeating procedures outlined in Example 12, 7-cyclopentyl-2-(5-piperazin-1-ylmethyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyri-midine-6-carboxylic acid dimethylamide (0.108 g, 0.241 mmol) and tert-butoxycarbonylamino-acetic acid (42 mg, 0.241 mmol) gave 2-{5-[4-(2-amino-acetyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxy-lic acid dimethylamide as a white solid (87 mg, 69%). MS (ESI) m/z 506.3 (M+H)+ (method B).

reactant | 7-cyclopentyl-2-(5-piperazin-1-ylmethyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyri-midine-6-carboxylic acid dimethylamide | 0.241 mmol, 0.108 g | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCNCC2)N1C1CCCC1)C | C24H32N8O
reactant | tert-butoxycarbonylamino-acetic acid | 0.241 mmol, 42 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
product | 2-{5-[4-(2-amino-acetyl)-piperazin-1-ylmethyl]-pyridin-2-ylamino}-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxy-lic acid dimethylamide | 87 mg, 69% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCN(CC2)C(CN)=O)N1C1CCCC1)C | C26H35N9O2
